US08067445B2
Step 3: 2-(3-Benzyloxy-5-trifluoromethyl-phenyl)propionic acid
2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-propionic acid ethyl ester (1.4 g, 4.0 mmol) in 2:2:1 MeOH:THF:H2O was treated with 1N aqueous LiOH (3 mL) at room temperature overnight. The mixture was acidified with 10% aqueous HCl and extracted three times with EtOAc. The combined organic layers were concentrated and purified by silica gel chromatography to give the title compound.

reactant | 2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-propionic acid ethyl ester | 4.0 mmol, 1.4 g | C(C)OC(C(C)C1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C19H19F3O3
reactant | MeOH | CO | CH4O
reactant | LiOH | 1N, 3 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-Benzyloxy-5-trifluoromethyl-phenyl)propionic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(F)(F)F)C(C(=O)O)C | C17H15F3O3
